US08802679B2
Under an argon atmosphere, tert-butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate (200 mg) and 6-bromonicotinonitrile (124 mg) were dissolved in toluene (6 ml), and tris(dibenzylideneacetone)dipalladium (124 mg), 1,1′-binaphthalene-2,2′-diylbis(diphenylphosphine) (169 mg), and cesium carbonate (222 mg) were added thereto, followed by stirring at 100° C. for 6 hours. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (0% to 7% MeOH/CHCl3) to obtain tert-butyl {2-[(3-{2-[4-(5-cyanopyridin-2-yl)piperazin-1-yl]pyrimidin-5-yl}benzyl)(methyl)amino]-2-oxoethyl}carbamate (122 mg).

reactant | tert-butyl (2-{methyl[3-(2-piperazin-1-ylpyrimidin-5-yl)benzyl]amino}-2-oxoethyl)carbamate | 200 mg | CN(C(CNC(OC(C)(C)C)=O)=O)CC1=CC(=CC=C1)C=1C=NC(=NC1)N1CCNCC1 | C23H32N6O3
reactant | 6-bromonicotinonitrile | 124 mg | BrC1=NC=C(C#N)C=C1 | C6H3BrN2
reactant | cesium carbonate | 222 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 124 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl {2-[(3-{2-[4-(5-cyanopyridin-2-yl)piperazin-1-yl]pyrimidin-5-yl}benzyl)(methyl)amino]-2-oxoethyl}carbamate | 122 mg | C(#N)C=1C=CC(=NC1)N1CCN(CC1)C1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1 | C29H34N8O3
